US09055743B2
Under argon, 341 mg (3.19 mmol) of p-toluidine are added to 400 mg (1.06 mmol) of 2-[bis(phenylsulphanyl)methyl]-3,4-dihydronaphthalen-1(2H)-one in 20 ml of toluene. After cooling to 0° C., 0.53 ml (0.53 mmol) of a titanium(IV) tetrachloride solution (1 M in dichloromethane) is added slowly. After 1 h of stirring at 0° C. and a further 1 h at 25° C., 809 mg (5.31 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 5 ml of dichloromethane are added. This mixture is poured into water and extracted with ethyl acetate. After washing with saturated aqueous sodium chloride solution, the organic phase is dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate) gives 298 mg of N-{2-[bis(phenylsulphanyl)methyl]-3,4-dihydronaphthalen-1(2H)-ylidene}aniline.

reactant | p-toluidine | 3.19 mmol, 341 mg | NC1=CC=C(C=C1)C | C7H9N
reactant | 2-[bis(phenylsulphanyl)methyl]-3,4-dihydronaphthalen-1(2H)-one | 1.06 mmol, 400 mg | C1(=CC=CC=C1)SC(C1C(C2=CC=CC=C2CC1)=O)SC1=CC=CC=C1 | C23H20OS2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.31 mmol, 809 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) tetrachloride | 0.53 mmol, 1 M, 0.53 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | N-{2-[bis(phenylsulphanyl)methyl]-3,4-dihydronaphthalen-1(2H)-ylidene}aniline | 298 mg | C1(=CC=CC=C1)SC(C1C(C2=CC=CC=C2CC1)=NC1=CC=CC=C1)SC1=CC=CC=C1 | C29H25NS2
